US07713994B2
(4E)-6-bromo-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione (67 mg, 0.24 mmol) and 5-(aminomethyl)-2-propoxybenzoic acid trifluoroacetate (50 mg, 0.16 mmol) were coupled in N,N-dimethylformamide (2 mL) and tetrahydrofuran (2 mL) with triethylamine (0.13 mL). The mixture is heated at 50° C. for 30 minutes and then at 65° C. overnight. Water is added and resulting mixture purified by reverse-phase HPLC to give a white solid material which is collected by filtration, washed with water, methanol, and diethyl ether and then dried under house vacuum to give 5-({[(Z)-(6-bromo-1,3-dioxo-2,3-dihydroisoquinolin-4(1H)-ylidene)methyl]amino}methyl)-2-propoxybenzoic acid (42 mg, 59%).

reactant | (4E)-6-bromo-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione | 0.24 mmol, 67 mg | BrC=1C=C2\C(\C(NC(C2=CC1)=O)=O)=C/OC | C11H8BrNO3
reactant | 5-(aminomethyl)-2-propoxybenzoic acid trifluoroacetate | 0.16 mmol, 50 mg | FC(C(=O)O)(F)F.NCC=1C=CC(=C(C(=O)O)C1)OCCC
reactant | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
reactant | triethylamine | 0.13 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 5-({[(Z)-(6-bromo-1,3-dioxo-2,3-dihydroisoquinolin-4(1H)-ylidene)methyl]amino}methyl)-2-propoxybenzoic acid | 42 mg, 59% | BrC=1C=C2/C(/C(NC(C2=CC1)=O)=O)=C/NCC=1C=CC(=C(C(=O)O)C1)OCCC | C21H19BrN2O5
